US09422263B2
6-Fluoro-3-methyl-1H-indazole-5-carbaldehyde
A solution of 30 g (131 mmol) 5-bromo-6-fluoro-3-methyl-1H-indazole [preparation described in WO 2005/085227-A1, Example 104c); also commercially available, CAS Reg.-No. 864773-66-0] in THF (525 ml) was cooled to −45° C. A solution of methylmagnesium chloride in THF (3 M; 50.2 ml, 151 mmol) was added dropwise at −45° C., and the resulting solution was stirred for 40 min at this temperature. Using a dosing pump, 253 ml (354 mmol) of 2-butyllithium solution (1.4 M in cyclohexane) were added so that the temperature did not exceed −40° C. The resulting mixture was stirred for 30 min at −40° C., and then 30.2 ml (393 mmol) N,N-dimethylformamide were added dropwise keeping the temperature at −40° C. The resulting mixture was stirred for 30 min at −40° C., then allowed to warm up to room temperature, and slowly poured into a volume of 2.8 L of 2 N hydrochloric acid cooled to 5° C. (ice-water bath). The mixture was extracted several times with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in dichloromethane and purified by chromatography on silica gel (eluent: pentane/ethyl acetate 6:4 v/v) to afford 19.6 g (78% of th.) of the title compound as a pale yellow solid.

reactant | 5-bromo-6-fluoro-3-methyl-1H-indazole | 131 mmol, 30 g | BrC=1C=C2C(=NNC2=CC1F)C | C8H6BrFN2
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | 2-butyllithium | 354 mmol, 1.4 M, 253 ml | CC(CC)[Li]
reactant | N,N-dimethylformamide | 393 mmol, 30.2 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 2 N, 2.8 L | Cl | ClH
solvent | THF | 525 ml | C1CCOC1 | C4H8O
solvent | THF | 151 mmol, 3 M, 50.2 ml | C1CCOC1 | C4H8O
product | 6-Fluoro-3-methyl-1H-indazole-5-carbaldehyde | FC1=C(C=C2C(=NNC2=C1)C)C=O | C9H7FN2O
